
simulator lang=spectre
global 0
parameters Iph=1 not_Iph=2.0

V1 (VSRC 0) vsource dc=Iph type=pwl wave=[ 0 Iph .5 Iph 1.0 (2*Iph) 1.1 (2*Iph)]
R1 (VSRC OUT) resistor r=1
C13 (OUT 0) capacitor c=not_Iph

tran tran stop=1
